US03948949
A mixture of 10 g. of 2-(9-hydroxy-2-xanthenyl)-propanol, 45 ml. of acetic acid, and 20 g. of concentrated hydriodic acid is refluxed for 3 minutes. After removal of the solvent by evaporation, 2-(2-xanthenyl)-propanol is obtained, m.p. 86°-89°.

reactant | 2-(9-hydroxy-2-xanthenyl)-propanol | OC1C2=CC=CC=C2OC=2C=CC(=CC12)C(CO)C | C16H16O3
reactant | hydriodic acid | I | HI
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(2-xanthenyl)-propanol | C1=C(C=CC=2OC3=CC=CC=C3CC12)C(CO)C | C16H16O2
